US07582760B2
4-Bromo-1-(3-fluoro-benzyl)-1H-indole-2,3-dione (167 mg) was dissolved in 2.5 mL of dioxane and 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (154 mg) was added, followed by [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II), complex with dichloromethane (1:1) (24 mg) and K2CO3 (138 mg). The reaction mixture was heated to 80° C. for 18 hours and then cooled and concentrated under reduced pressure. The resulting residue was purified by chromatography to afford 4-[1-(3-Fluoro-benzyl)-2,3-dioxo-2,3-dihydro-1H-indol-4-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester. MS: 337 (M−Boc+H)+.

reactant | 4-Bromo-1-(3-fluoro-benzyl)-1H-indole-2,3-dione | 167 mg | BrC1=C2C(C(N(C2=CC=C1)CC1=CC(=CC=C1)F)=O)=O | C15H9BrFNO2
reactant | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 154 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
reactant | dichloromethane | 24 mg | ClCCl | CH2Cl2
reactant | K2CO3 | 138 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-[1-(3-Fluoro-benzyl)-2,3-dioxo-2,3-dihydro-1H-indol-4-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=C2C(C(N(C2=CC=C1)CC1=CC(=CC=C1)F)=O)=O | C25H25FN2O4
